Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Visual Field Cut
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 The patient is a ___ year old gentleman with AF on Coumadin,
DM not on medications (per patient A1c improved), HLD, h/o GCA
presenting with visual field cut 2 days ago, now resolved and 
MRI
with small infarcts in the right frontal deep white matter
(centrum semiovale) and right occipital lobe. 

Patient reports that he was driving on ___ when he 
looked at
the odometer and saw "1.4." Shifted his gaze repeatedly and then 
saw
"61.4. " Pulled off the road and was trying to read some 
sentences,
reports that parts of the sentence or the left parts of the word
would seem to be missing, that it seemed as though someone had
poured water on the left side of his visual field. Reports that
this lasted less than an hour, resolved. 

Was seen by his ophthalmologist (symptoms had resolved at that
time) who found that he had his baseline ___ vision on the
right, ___ on the left and no clear explanation for the
symptoms, thought it was unlikely ophthalmologic. Recommended
MRI. 

Patient had outpatient MRI yesterday ___ which per report
showed two small strokes, one (at least subacute) infarct in the
right occipital lobe and one small acute one in the right 
frontal
deep white matter (centrum semiovale).

Patient reports that given the findings on MRI he was then
referred to the ED. 

Patient reports that he has known AF for years of Coumadin, is
followed at ___ and ___ stable INRs around 2.5; lowest was 2.1
in ___. At this point has this checked every few months.
Has not recently changed his diet or had any medication changes. 


Had a URI with productive cough about a week ago. No fevers. Has
otherwise been well. 

Reports some arthritis in hands, possibly right more than left.
Denies focal weakness, numbness, confusion, difficulty thinking
or speaking, additional or ongoing vision changes, dizziness,
vertigo. 
ED with ___ weakness in RUE on right likely due to arthritis. 

 
Past Medical History:
AF on Coumadin
Borderline elevated A1c, improved with diet
Mild HLD 
GCA diagnosed ___ treated with prednisone off and on ___ years
Hand arthritis - per patient MTX was suggested but patient has
treated with OT, paraffin baths, turmeric 
Bilateral knee replacements
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: NAD  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: slow; irregularly irregular, no M/R/G  
Pulmonary: CTAB, no crackles or wheezes  
Abdomen: Soft, NT, ND, +BS, no guarding  
Extremities: Warm, no edema  

Neurologic Examination:  
MS: Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, able to name ___ backward with a few
prompts once gets to ___ (says ___ then thrown off); 
then
able to continue without difficulty. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact. No paraphasias. No dysarthria. Normal prosody. No
apraxia. No evidence of hemineglect. No left-right confusion.
Able to follow both midline and appendicular commands. 
 
Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. Palate elevation symmetric. 
SCM/Trapezius
strength ___ bilaterally. Tongue midline.  

Motor - Normal bulk and tone. No drift. No tremor or asterixis.
Grip strength 5- on right and right triceps ___ but requires 
more
effort, per patient likely due to arthritis. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5*    5     5     5    5     5     5     5    
Sensory - No deficits to light touch or temperature bilaterally.
No extinction to DSS. 

DTRs:  
      [Bic]  [___] [Quad] [Gastroc]
     L  2+    2+     2+      1+       
     R  2+    2+     2+      1+         
Plantar response flexor bilaterally.  

Coordination - No dysmetria with finger to nose or HKS testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.  

Gait - Grossly normal from across the room. Deferred tandem. 

DISCHARGE PHYSICAL EXAM:
Nonfocal
 
Pertinent Results:
___ 05:35AM BLOOD WBC-6.5 RBC-4.04* Hgb-13.8 Hct-40.2 
MCV-100* MCH-34.2* MCHC-34.3 RDW-13.6 RDWSD-50.1* Plt ___
___ 02:30PM BLOOD WBC-6.5 RBC-4.29* Hgb-13.9 Hct-42.8 
MCV-100* MCH-32.4* MCHC-32.5 RDW-13.3 RDWSD-48.7* Plt ___
___ 05:35AM BLOOD ___ PTT-39.2* ___
___ 02:30PM BLOOD ___ PTT-43.5* ___
___ 05:35AM BLOOD Glucose-90 UreaN-16 Creat-1.0 Na-140 
K-4.0 Cl-99 HCO3-25 AnGap-20
___ 02:30PM BLOOD Glucose-102* UreaN-16 Creat-1.0 Na-138 
K-4.2 Cl-101 HCO3-24 AnGap-17
___ 05:35AM BLOOD ALT-20 AST-21 LD(LDH)-187 CK(CPK)-86 
AlkPhos-72 TotBili-0.5
___ 02:30PM BLOOD ALT-22 AST-24 AlkPhos-83 TotBili-0.5
___ 05:35AM BLOOD GGT-30
___ 02:30PM BLOOD Lipase-27
___ 05:35AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:35AM BLOOD TotProt-6.6 Albumin-3.7 Globuln-2.9 
Cholest-135
___ 05:35AM BLOOD %HbA1c-6.1* eAG-128*
___ 05:35AM BLOOD Triglyc-166* HDL-27 CHOL/HD-5.0 
LDLcalc-75
___ 05:35AM BLOOD TSH-2.3
___ 05:35AM BLOOD CRP-4.8

___ H&N
1. Mild atrophy.  Otherwise normal head CT 
2. Normal head CTA 
3. Bilateral calcified common carotid and proximal internal 
carotid artery 
atherosclerotic plaque without stenosis by NASCET criteria. 

 
Brief Hospital Course:
Pt was admitted to ___ due to recent episode of transient left 
visual field cut with outside MRI showing small subacute 
infarcts in R centrum semiovale and R occipital lobe. Pt 
underwent CTA upon admission which was normal. He was monitored 
on telemetry and underwent laboratory workup with INR noted to 
be supratherapeutic at 3.6. His home Warfarin was held with INR 
seen to downtrend. After discussion with patient's primary care 
provider, it was determined that pt had experienced treatment 
failure with Coumadin and would be transitioned to Eliquis as 
outpatient. Due to appearing clinically stable, patient was 
discharged home from the hospital.

Transition Issues:
-Pt will need to follow up with his primary care provider within 
the next ___ days to evaluate INR; when <2, pt can start on 
Eliquis 5mg twice daily
-Pt should discuss with his PCP whether ___ in near 
future may be appropriate
-Pt should arrange to be seen by neurologist affiliated with his 
PCP in ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Lisinopril 2.5 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
Please start taking after INR seen to be <2 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*30 Tablet Refills:*0 
2.  Atenolol 25 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Lisinopril 2.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of visual field changes 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Atrial Fibrillation
High blood pressure
High cholesterol
Diabetes

We are changing your medications as follows:
Please stop taking Coumadin. Once your INR is below 2 start 
taking Eliquis 5mg twice daily

Please take your other medications as prescribed.

Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___